US07037990B2
EtZnOPh:
In the drybox, a 100-mL Schlenk flask was charged with Et2O (30 mL) and cooled to −78° C. Diethylzinc (9.0 mL of a 1.0 M hexane solution, 9.0 mmol) was added via syringe. A solution of phenol (0.847 g of phenol in 10 mL of Et2O) was added to the Schlenk flask, and the colorless reaction mixture was stirred at −78° C. for 1 h. The mixture was evaporated to give a white solid (1.593 g, 94%). 1H NMR (300 MHz, DMSO-d6): δ 7.1, 6.6 (m, 5H), 1.2 (t, 3H), 0.1 (m, 2H).

reactant | Et2O | 30 mL | CCOCC | C4H10O
reactant | Diethylzinc | C(C)[Zn]CC
reactant | phenol | 10 mL, 0.847 g | C1(=CC=CC=C1)O | C6H6O
solvent | hexane | 1.0 M | CCCCCC | C6H14
product | EtZnOPh | 1.593 g, 94% | C(C)[Zn]OC1=CC=CC=C1 | InChI=1S/C6H6O.C2H5.Zn/c7-6-4-2-1-3-5-6;1-2;/h1-5,7H;1H2,2H3;/q;;+1/p-1
